US07208524B2
2-Hydroxy-4-isopropylbenzaldehyde (6.69 g) and 11.26 g of potassium carbonate were suspended with 100 mL of N,N-dimethylformamide, and 5.33 mL of benzyl bromide was added to the stirred mixture at room temperature. After the mixture was stirred at room temperature for 16 hours, the insoluble material was removed by filtration. To the filtrate were added 10 mL of water and 10 mL of diluted hydrochloric acid, and the mixture was extracted with ethyl acetate. After being washed with brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 10.44 g of 2-benzyloxy-4-isopropylbenzaldehyde.

reactant | 2-Hydroxy-4-isopropylbenzaldehyde | 6.69 g | OC1=C(C=O)C=CC(=C1)C(C)C | C10H12O2
reactant | potassium carbonate | 11.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.33 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-benzyloxy-4-isopropylbenzaldehyde | 10.44 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)C(C)C | C17H18O2
